US04005099
In the manner given in Example 3, 2'-chloro-5-bromo-2-[2-[(dimethylamino)methyl]-4-methyl-5-hydroxymethylimidazol-1-yl]benzophenone, triphenylphosphine, phthalimide and thereafter diethyl azodicarboxylate are reacted together to give N-[[1-[4-bromo-2-(o-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol- 5-yl]methyl]-phthalimide.

reactant | 2'-chloro-5-bromo-2-[2-[(dimethylamino)methyl]-4-methyl-5-hydroxymethylimidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Br)N1C(=NC(=C1CO)C)CN(C)C)=O | C21H21BrClN3O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | N-[[1-[4-bromo-2-(o-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol- 5-yl]methyl]-phthalimide | BrC1=CC(=C(C=C1)N1C(=NC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C)CN(C)C)C(C2=C(C=CC=C2)Cl)=O | C29H24BrClN4O3
